US03953460
1-Nitro-2-methylamino-2-[4-(4-imidazolyl)butylamino]ethylene
Reaction of 4-(4-aminobutyl)imidazole (from the dihydrobromide (3.6g) with 1-nitro-2,2-bis-methylthioethylene (2.0g) by the procedure of Example 4(i) and treatment of the resultant 1-nitro-2-methylthio-2-[4-(4-imidazolyl)butylamino]ethylene with methylamine according to the procedure of Example 3(ii) gives the title compound.

reactant | 4-(4-aminobutyl)imidazole | NCCCCC=1N=CNC1 | C7H13N3
reactant | 1-nitro-2,2-bis-methylthioethylene | 2.0g | [N+](=O)([O-])C=C(SC)SC | C4H7NO2S2
reactant | 1-nitro-2-methylthio-2-[4-(4-imidazolyl)butylamino]ethylene | [N+](=O)([O-])C=C(NCCCCC=1N=CNC1)SC | C10H16N4O2S
reactant | methylamine | CN | CH5N
product | 1-Nitro-2-methylamino-2-[4-(4-imidazolyl)butylamino]ethylene | [N+](=O)([O-])C=C(NCCCCC=1N=CNC1)NC | C10H17N5O2
